2163-06-10 07:20:00 Physician Resident Progress Note
TITLE: [**Hospital Unit Name 10**] Progress Note
   Chief Complaint:
   24 Hour Events:
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2163-6-9**] 05:25 PM
   pt. off propofol. very agitated. had just spoken to ho's regarding
   agitation and whether to restart propofol and at that time pt.
   extubated herself. placed on shovel mask. o2 sats 97%.
 INVASIVE VENTILATION - STOP [**2163-6-9**] 05:26 PM
 UNPLANNED EXTUBATION (PATIENT-INITIATED) - At [**2163-6-9**] 05:29 PM
   -propofol stopped, pt more awake, agitated, around 5pm removed her ET
   tube while on PS 5/5, before able to discuss extubation with family,
   did well
   -neuro prelim read of EEG of diffuse slowing, cosistent with
   encephalopathy
   -abx stopped
   -given lasix 20mg IV, then 40mg IV, -1L at 1900
   -levophed weaned
   -family wishes to tranfer pt to hospice
   Allergies:
   Zoloft (Oral) (Sertraline Hcl)
   Unknown;
   Last dose of Antibiotics:
   Acyclovir - [**2163-6-8**] 08:00 AM
   Ampicillin - [**2163-6-8**] 08:39 AM
   Cefipime - [**2163-6-8**] 01:58 PM
   Vancomycin - [**2163-6-9**] 07:32 AM
   Levofloxacin - [**2163-6-9**] 10:52 AM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2163-6-9**] 08:32 AM
   Furosemide (Lasix) - [**2163-6-9**] 05:14 PM
   Heparin Sodium (Prophylaxis) - [**2163-6-9**] 07:53 PM
   Morphine Sulfate - [**2163-6-9**] 10:29 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2163-6-10**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.1
C (98.8
   HR: 60 (56 - 127) bpm
   BP: 117/43(59) {99/35(50) - 149/87(99)} mmHg
   RR: 17 (14 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,337 mL
                                                                     73 mL
   PO:
             TF:
                                                                    641 mL
   IVF:
                                                                    636 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  2,969 mL
                                                                    330 mL
   Urine:
                                                                  2,969 mL
                                                                    330 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,632 mL
                                                                   -257 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 449 (349 - 449) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.34/47/121/27/0
   Ve: 10 L/min
   PaO2 / FiO2: 303
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   309 K/uL
   9.1 g/dL
   96 mg/dL
   1.1 mg/dL
   27 mEq/L
   4.0 mEq/L
   22 mg/dL
   107 mEq/L
   139 mEq/L
   27.4 %
   9.0 K/uL
        [image002.jpg]
                             [**2163-6-7**]  05:51 AM
                             [**2163-6-7**]  06:31 AM
                             [**2163-6-7**]  07:02 AM
                             [**2163-6-7**]  05:06 PM
                             [**2163-6-8**]  04:09 AM
                             [**2163-6-8**]  04:41 AM
                             [**2163-6-8**]  10:00 AM
                             [**2163-6-9**]  03:16 AM
                             [**2163-6-9**]  04:04 PM
                             [**2163-6-10**]  04:36 AM
   WBC
   7.0
   9.3
   9.9
   9.0
   9.0
   Hct
   24.1
   24.9
   26.3
   23.4
   27.9
   27.4
   Plt
   [**Telephone/Fax (3) 6428**]19
   309
   Cr
   1.0
   1.0
   1.1
   1.1
   TropT
   0.25
   0.37
   TCO2
   30
   25
   26
   Glucose
   134
   81
   100
   96
   Other labs: PT / PTT / INR:13.9/31.8/1.2, CK / CKMB /
   Troponin-T:89/12/0.37, ALT / AST:33/51, Alk Phos / T Bili:87/0.6,
   Fibrinogen:503 mg/dL, Lactic Acid:0.9 mmol/L, LDH:251 IU/L, Ca++:8.8
   mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 ANEMIA, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ENDOCARDITIS, HISTORY OF
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   [**Age over 90 **]F s/p recent complicated hospitalization now p/w acute AMS, found to
   have increased Trp, hypotension.
   # Atered mental status: Her overall picture is most consistent with a
   global toxic-metabolic insult given the degree of impairment and the
   lack of focal findings on physical examination. EEG prelim demonstrates
   encephalopathy. Currently patient is delirious. She had impressive
   lower extremity clonus with increased tone/rigidity (predominantly in
   the legs), now improving.  Differential diagnosis includes infection
   (HSV encephalitis vs. meningitis vs C. diff vs HCAP) vs. pons lesion of
   unclear significance vs. seizure vs. serotonin syndrome. MRI without
   clear cause.
   - Meningitis- unlikely
   ------ No LP for now,
   ------ will d/c acyclovir
   - HCAP
   ------ Cefepime, Levofloxacin, Vancomycin
   ------ BAL today for cx
   - stroke
 f/u MRI brain to evaluate the pons lesion and septic emboli
   given possible endocarditis.
   - meds: D/C
d celexa, aricept for now
   - stopping propofol once neuro evaluates pt
   - seizure: 24 hour continuous EEG monitoring. Continue Versed drip and
   bolus prn.
   - neuro recs
   # Decreased UOP: unclear etiology, possibly contrast-induced
   nephropathy vs prerenal (though received fluids overnight), urine lytes
   consistent with contrast induced damage vs prerenal. Cr is improving.
   - monitor UO
   - continue TFs
   - renally-dose medications
   # Hypotension: unclear etiology, suspicious for cardiogenic shock
   (given elevated Trp, h/o NSTEMI) vs sepsis vs sedation-related
   (preload-problem). BP high 80s, baseline in 100s. No ss/sxs of
   infection (cx negative, afebrile, no leukocytosis), on abx. [**Month (only) 11**] be from
   sedation. TTE with EF 45%
   - pressor
 norephinephrine gtt, will try to wean (goal MAP > 65)
   - ASA, bbl, statin
   - hold off heparin gtt
   - decrease sedation
   # Respiratory failure: She was  intubated in the setting of agitation.
   Final CT scan demonstrates diffuse ground-glass opacities predominantly
   within upper lobes
 represent infection vs. aspiration. On admission
   being treated for healthcare associated pneumonia however no other
   evidence of PNA.  CXR showed resolution of upper lobe opacities,
   current changes may be secondary to fluid overload. Is 6 liters
   positive.
   --will stop abx
   -- Influenza negative
   -- Viral culture negative
   --Check urine legionella antigen
   --Standing albuterol nebs for now
   --Continue outpatient Advair
   --Lasix 20mg IV
   # Anemia: Unclear etiology. Baseline Hct 28 (based on last admission).
   Guaiac negative. Hemolysis labs negative.  Given 1 unit RBCs
   - continue to trend Hct
   # Endocarditis: TTE without evidence
   - will hold off on TEE at this time
   - stopping abx
   # Back pain: Complained of back pain past admission, no imaging to
   evaluate for disciitis/osteomyelitis as planned to treat with 6 weeks
   of antibiotics. Currently work-up of acute mental status change most
   important, consider MRI spine to r/o infection at later date.
   - hold off on further abx
   ICU Care
   Lines:
   PICC Line - [**2163-6-6**] 10:40 PM
   20 Gauge - [**2163-6-8**] 06:10 AM
   22 Gauge - [**2163-6-8**] 04:18 PM
   Nutrition: Fiber source tube feeds.
   Glycemic Control:  None.
   Prophylaxis:
   DVT:  Heparin SQ [**Hospital1 **]
   Stress ulcer: Pantoprazole
   Communication:  Comments:  HCP [**Name (NI) 919**] [**Name (NI) 6391**], other daughter is NP
   Code status:  DNR, not DNI
   Disposition: pending above work-up